US06723716B1
2-(2-tert-Butoxycarbonylaminoethylthio)-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole
To a solution of 2-bromo-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole (421 mg, 1.2 mmol) and 2-(tert-butoxycarbonylamino)ethylthiol (234 mg, 1.3 mmol) in isopropyl alcohol (5 mL) was added 1.0 M sodium t-butoxide in t-butanol (1.2 mL) and stirred at 80° C. for 1 h. After cooling, the mixture was concentrated and partitioned between ethyl acetate and water. The ethyl acetate extract was concentrated. The residue was chromatographed on silica gel (1% methanol/dichloromethane), affording 364 mg of the title compound. 1H NMR (CDCl3) δ 1.63 (18H), 2.78 (t, 2H), 3.42 (m, 4H), 3.61 (t, 2H), 3.90 (s, 2H), 5.18 (br s, 1H), 7.13 (1H).

reactant | 2-bromo-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole | 1.2 mmol, 421 mg | BrC=1SC=C(N1)CSCCNC(=O)OC(C)(C)C | C11H17BrN2O2S2
reactant | sodium t-butoxide | 1.0 M | CC(C)([O-])C.[Na+]
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
solvent | t-butanol | 1.2 mL | C(C)(C)(C)O | C4H10O
product | 2-(2-tert-Butoxycarbonylaminoethylthio)-4-[(2-tert-butoxycarbonylaminoethyl)thiomethyl]-1,3-thiazole | 364 mg | C(C)(C)(C)OC(=O)NCCSC=1SC=C(N1)CSCCNC(=O)OC(C)(C)C | C18H31N3O4S3
